US04971982
237 mg of methyl 6-(6-cyano-3,4-dihydro-2 2-dimethyl-2H-1-benzopyran-4-yl)-3-pyridinecarboxylate were dissolved in 30 ml of dichloromethane and 180 mg of m-chloroperbenzoic acid were added. The mixture was stirred at room temperature overnight and then washed in succession with sodium bisulphite solution, sodium bicarbonate solution and water, dried over sodium sulphate and evaporated. The resulting oil was triturated with diethyl ether to give a solid which was recrystallized from t-butyl methyl ether. There were obtained 60 mg of 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-(methoxycarbonyl)pyridine N-oxide of melting point 135°-137° C.

reactant | methyl 6-(6-cyano-3,4-dihydro-2 2-dimethyl-2H-1-benzopyran-4-yl)-3-pyridinecarboxylate | 237 mg | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=CC=C(C=N2)C(=O)OC)C1 | C19H18N2O3
reactant | m-chloroperbenzoic acid | 180 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-(methoxycarbonyl)pyridine N-oxide | 60 mg | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=C(C=C2)C(=O)OC)[O-])C1 | C19H18N2O4
